US07498337B2
5-mesityl-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde
To a solution of 5-mesityl-1H-pyrrole-3-carbaldehyde (0.36 g) in tetrahydrofuran (20 mL) was added sodium hydride (60% in oil, 0.14 g) under ice-cooling, and the mixture was stirred at room temperature for 0.5 hr. A solution of 15-crown-5 (0.75 g) in tetrahydrofuran (3 mL) was added and, after stirring for 5 min, pyridin-3-ylsulfonyl chloride (0.45 g) was added under ice-cooling. The reaction mixture was stirred at room temperature for 0.5 hr, a saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=10:1→2:1) to give the title compound as a pale-brown amorphous form (yield 0.38 g, 62%).

reactant | 5-mesityl-1H-pyrrole-3-carbaldehyde | 0.36 g | C1(=C(C(=CC(=C1)C)C)C1=CC(=CN1)C=O)C | C14H15NO
reactant | sodium hydride | 0.14 g | [H-].[Na+]
reactant | 15-crown-5 | 0.75 g | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | pyridin-3-ylsulfonyl chloride | 0.45 g | N1=CC(=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 5-mesityl-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde | C1(=C(C(=CC(=C1)C)C)C1=CC(=CN1S(=O)(=O)C=1C=NC=CC1)C=O)C | C19H18N2O3S
